US07977481B2
(5-Acetyl-thiophen-2-yl)-acetic acid (2 g, 10.8 mmol), 3-hydroxymethyl-3-methyloxetane (1.07 mL, 10.8 mmol), and dimethylaminopyridine (221 mg, 1.08 mmol) were dissolved in 5 mL of dry THF and cooled to 0° C. Dicyclohexylcarbodiimide (2.24 g, 10.8 mmol) was added and the mixture was stirred at 0° C. for 1 hr, then warmed to room temperature and stirred overnight. The mixture was cooled to 0° C. and filtered. The white solid was washed with cold THF and the combined filtrates were concentrated. The crude product was purified via flash chromatography (hexanes/ethyl acetate gradient) to give 2.3 g of (5-Acetyl-thiophen-2-yl)-acetic acid 3-methyl-oxetan-3-ylmethyl ester (8.5 mmol, 79%). The product was dissolved in 20 mL DCM and cooled to −5° C. Boron trifluoride diethyletherate (121 μL, 1 mmol) was added dropwise, the mixture was slowly warmed to room temperature and stirred for 30 minutes. The reaction was quenched with triethylamine, concentrated and purified via flash chromatography (hexanes/ethyl acetate gradient) to give 1.44 g of 1-[5-(4-Methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-ylmethyl)-thiophen-2-yl]-ethanone (4.1 mmol, 38% over two steps).

reactant | (5-Acetyl-thiophen-2-yl)-acetic acid | 10.8 mmol, 2 g | C(C)(=O)C1=CC=C(S1)CC(=O)O | C8H8O3S
reactant | 3-hydroxymethyl-3-methyloxetane | 10.8 mmol, 1.07 mL | OCC1(COC1)C | C5H10O2
reactant | dimethylaminopyridine | 1.08 mmol, 221 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Dicyclohexylcarbodiimide | 10.8 mmol, 2.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5-Acetyl-thiophen-2-yl)-acetic acid 3-methyl-oxetan-3-ylmethyl ester | 8.5 mmol, 2.3 g, 79% | CC1(COC1)COC(CC=1SC(=CC1)C(C)=O)=O | C13H16O4S
